US04661477
To a mixture of 34.6 g. (0.25 moles) of diethyl phosphite, 50 ml. of water and 50 ml. of ethanol a mixture of 53.4 g. (0.25 moles) of tetradecylamine and 70 ml. of ethanol is added. The reaction mixture is refluxed for 4 hours, whereupon the solvent is distilled off in vacuo. 80.7 g (99.8%) of tetradecyl-ammoniumethyl phosphanate are obtained, melting at 45° to 46° C.

reactant | diethyl phosphite | 0.25 moles | P(OCC)(OCC)[O-]
reactant | water | O | H2O
reactant | tetradecylamine | 0.25 moles | C(CCCCCCCCCCCCC)N | C14H31N
solvent | ethanol | C(C)O | C2H6O
product | tetradecyl-ammoniumethyl phosphanate | 80.7 g, 99.8% | C(C)OP=O.C(CCCCCCCCCCCCC)[NH3+] | InChI=1S/C14H31N.C2H5O2P/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15;1-2-4-5-3/h2-15H2,1H3;2H2,1H3/p+1
